US05932601
In substantially the same manner as in Reference Example 24, methyl 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamate was subjected to reduction with diisobutyl aluminum hydride to yield (E)-3-[4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-propen-1-ol, which was recrystallized from ethyl acetate-ether to give pale yellow prisms, m.p.137-138° C.

reactant | methyl 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamate | COC1=C(C=C(C=CC(=O)OC)C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C22H21NO5
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (E)-3-[4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-propen-1-ol | COC1=C(C=C(C=C1)/C=C/CO)OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H21NO4
